*****************************************************************
******STMicroelectronics MOSFET, IGBT and Bipolar Library *******
*****************************************************************
*				 			                                    *
* Models provided by STMicroelectronics are not guaranteed to   *
* fully represent all the specifications and operating	        *
* characteristics of the product behavior that they reproduce.  *
* The model describes the characteristics of a typical device.  *
* In all cases, the current product data sheet contains all     *
* information to be used like final design guidelines and the   *
* only actual performance specification.                        *
* Altough models can be a useful tool in evaluating device      *
* performance, they cannot model exact device performance under *
* all conditions.						                        *
* STMicroelectronics therefore does not assume any              *
* responsibility arising from their use.                        *
* STMicroelectronics reserves the right to change models        *
* without prior notice.                                         *
*                                                               *
* Note: The model doesn't take into account the drain, gate,    *
* source inductances.If these contributions have to be          *
* considered it is possible include the inductors externally.   *
*****************************************************************
* REV.10.0                                                      *
* Dec.2015                                                      *
*****************************************************************

.SUBCKT STP5N80K5 drain gate source 
*****************************************************************
E1	Tj	Val_T	VALUE={TEMP}
R1	Val_T	0	1E-03
*****************************************************************
Rtk	 Tj 0 1E010
Rtk1 Tj 0 1E010
*****************************************************************
VLd drain d1k 0
V_Read d1k d1 0
VLs source ss 0
VLg gate g2 0
Rg1 g2 g {Rg}
.PARAM  Rg=16
*****************************************************************
.PARAM AreaCap={1} Area={1} Gfs={1}
*****************************************************************
.PARAM  Vth0=5.85 KpSat0=5 KpLin0=5
.PARAM  Rs=50E-02 Drs=-1.5 
.PARAM  Vthx=3.5E-03 KSat=-0.8 KLin=-0.5    
.PARAM  Lambda=0.001 Rdrain={0.9/Area}  
.PARAM  Rx=1.59 Rpa=1E-06 Unt=-3.15
*****************************************************************
.FUNC Vth1(x) {Vth0-Vthx*(x-27)}
.FUNC kpsat(x) {KpSat0*((x+273)/300)**(KSat)}
.FUNC kplin(x) {KpLin0*((x+273)/300)**(KLin)}
*****************************************************************
V2xx  d1 22xxx 0
E2xxx 22xxx d VALUE={R2(I(V2xx),V(TJ))}
.FUNC R2(I1,T2) {I1*(Rdrain+Rpa*I1**Rx)/((((T2+273)/300)**(Unt))*Area)}
*****************************************************************
R_Grs ss s 1E03
V1xx 11xxx ss 0
E1xxx 11xxx s VALUE={R1(Limit(I(V1xx),-1MEG,1MEG),V(TJ))}
.FUNC R1(I1,T1) {-(I1)*((Rs/(Area*(((T1+273)/300)**(Drs)))))}
*****************************************************************
Gmos d s VALUE {0.9*Gfs*(IF(V(d,s)>0,(IF(V(g,s)<Vth1(V(TJ)),0,
+(IF((V(d,s)<(V(g,s)-Vth1(V(TJ)))*kpsat(V(TJ))/kplin(V(TJ))),(1+Lambda*V(d,s))*kplin(V(TJ))/2*V(d,s)*
+(2*(V(g,s)-Vth1(V(TJ)))-kplin(V(TJ))/kpsat(V(TJ))*V(d,s)),
+(1+Lambda*V(d,s))*kpsat(V(TJ))/2*(V(g,s)-Vth1(V(TJ)))**2)))),-(IF(V(g,s)<Vth1(V(TJ)),0,
+(IF((V(s,d)<(V(g,s)-Vth1(V(TJ)))*kpsat(V(TJ))/kplin(V(TJ))),(1+Lambda*V(s,d))*kplin(V(TJ))/2*V(s,d)*
+(2*(V(g,s)-Vth1(V(TJ)))-kplin(V(TJ))/kpsat(V(TJ))*V(s,d)),
+(1+Lambda*V(s,d))*kpsat(V(TJ))/2*(V(g,s)-Vth1(V(TJ)))**2))))))} 
*****************************************************************
CGS source g {177E-12*AreaCap}
RCGS source g 1000E06 
*****************************************************************
EDeV DeV1 0 VALUE {V(d,g)}
C_DeV1 DeV1 DeV2 1E-12
R_DeV DeV2 DeV3 1E-06
V_Miller DeV3 0 0 
G_Miller d g VALUE ={AreaCap*1*V(alfa)*i(V_Miller)*1E12}
*****************************************************************
RCap Alfa 0 1E03
ECap Alfa 0 TABLE ={V(d,g)}
+(0.1,146.96p) 
+(0.2,145.7p) 
+(0.5,141.8p) 
+(1,135.42p) 
+(2,119.32p) 
+(3,105.39p) 
+(5,85.02p) 
+(7,71.26p) 
+(10,56.49p) 
+(15,38.74p) 
+(20,25.21p) 
+(25,7.34p) 
+(30,4.71p) 
+(40,2.31p) 
+(50,1.21p) 
+(100,0.34p) 
+(150,0.54p) 
+(200,0.6p) 
+(250,0.72p) 
+(300,0.85p) 
+(350,0.93p) 
+(400,1.11p) 
+(450,1.32p) 
+(500,1.36p) 
+(550,1.47p) 
+(600,1.52p) 
+(650,1.59p) 
+(700,1.76p) 
+(750,1.79p) 
+(800,1.84p) 
*****************************************************************
EDeVc DeV1c 0 VALUE {V(d,s)}
C_DeV1c DeV1c DeV2c 1E-12
R_DeVc DeV2c DeV3c 1E-06
V_Millerc DeV3c 0 0 
G_Coss d s VALUE ={1*AreaCap*V(Alfa2)*i(V_Millerc)*1E12}
*****************************************************************
RCap2 Alfa2 0 1E03
ECap2 Alfa2 0 TABLE ={V(d,s)}
+(0.1,1773.85p) 
+(0.2,1701.38p) 
+(0.5,1482.52p) 
+(1,1283.78p) 
+(2,1067.62p) 
+(3,939.54p) 
+(5,790.53p) 
+(7,694.98p) 
+(10,607.42p) 
+(15,514.52p) 
+(20,456.3p) 
+(25,402.38p) 
+(30,363.29p) 
+(40,299.44p) 
+(50,212.88p) 
+(100,15.34p) 
+(150,10.78p) 
+(200,9.83p) 
+(250,8.76p) 
+(300,7.91p) 
+(350,7.43p) 
+(400,6.96p) 
+(450,6.44p) 
+(500,6.3p) 
+(550,6.12p) 
+(600,6p) 
+(650,5.87p) 
+(700,5.62p) 
+(750,5.53p) 
+(800,5.44p) 
*****************************************************************
.PARAM RAV=2 BVDSS=1
G_BVdss d1bVdss1 ss VALUE={I_BVdss(V(d1bVdss1,ss),V(Tj))}
R_GBdss d1bVdss1 0 1E12
.FUNC I_BVdss(z,k1) {(exp(min(-175+z/(bvd(k1)),7))-0E-12)}
.FUNC bvd(k) {5.05*BVDSS+0.0045*k}
R_BVdss d1 d1bVdss1 {RAV}
*****************************************************************
.PARAM ResDiodo={0.025/AreaCap}
V_Diodo d1zd d1z 0
G_Diode source d1zd VALUE={I_Diode(V(source,d1zd),V(Tj))}
R_X source d1zd 1E12
.FUNC I_Diode(z3,k3) {(exp(min(-15+z3/(did(k3)),7))-0E-12)}
.FUNC did(k4) {0.0535-63E-06*k4}
R_G_R_didd d1 d1z {ResDiodo}
*****************************************************************
E_E001 ba 0 VALUE {-I(V_Diodo)}
R_R002 aa ba 2E03
C aa 0 15E-12
.PARAM Irrm=5E05
*****************************************************************
R_edep drain d_dedep 30
E_Eds d_dedep edep VALUE {-V(aa,0)*Irrm*AreaCap}
Edeva dev1a 0 value {v(edep,source)}
C_dev1a dev1a dev2a 1E-12
R_deva dev2a dev3a 1E-06
V_millera dev3a 0 0 
G_millera edep source  value ={v(alfaa)*i(V_millera)*1E12}
*****************************************************************
Rcapa alfaa 0 1E03
Ecapa alfaa 0 TABLE ={V(Tj)}
+(25,1p)
+(150,0.95p)  
*****************************************************************
.ENDS STP5N80K5_V2
